US05534535
(±)-(1S*, 2R*, 3R*)-3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediol
(±)-(1S*, 2R*, 3R*)-3-(4,5-Dichloro-2-nitroanilino)-1,2-cyclopentanediol (3.77 g, 12.3 mmol) in isopropanol (250 mL) was shaken in a Parr shaker with Raney nickel (Aldrich, prewashed with water until neutral, ca. 1 tsp) under hydrogen (50 psi) for 2 hours, at which point uptake of hydrogen had ceased. TLC (silica gel, methanol:chloroform/1:10) shows one spot at lower Rf than starting material. The catalyst was filtered off (Celite) and volatiles evaporated to leave a glass which was refluxed in formic acid (65 mL) for 40 minutes. The formic acid was evaporated and the residual oil dissolved in ethanol (50 mL) and adjusted to pH 13 with 5N sodium hydroxide. After stirring at ambient temperature for 18 hours, the pH was adjusted to 7 with hydrochloric acid and the volatiles removed by evaporation in vacuo. The residue was triturated with methanol. The methanol solution was evaporated to dryness to give white solid which contained product and some salts (7.41 g). A portion of this solid (1.05 g) was chromatographed on silica gel and product was eluted with 6-8% methanol-chloroform as white powder, after solidification from ethanol (350 mg), m.p. 180°-182° C.; 1H-NMR(DMSO-d6)δ: 8.46, 8.08, and 7.93 (all s, 1 each, 3 aromatic CH), 4.96 (d, J=4.7 Hz, 1, OH), 4.92-4.85 (m, 1, NCH), 4.81 (d, J=5.9 Hz, 1, OH), 4.19-4.11 (m, 1, OCH), 4.08-3.93 (m, 1, OCH), 2.38-2.04 (m, 2, CH2), 2.03-1.72 (m, 2, CH2); mass spectrum(CI): 287 (M+1).

reactant | 3-(4,5-Dichloro-2-nitroanilino)-1,2-cyclopentanediol | 12.3 mmol, 3.77 g | ClC1=CC(=C(NC2C(C(CC2)O)O)C=C1Cl)[N+](=O)[O-] | C11H12Cl2N2O4
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 250 mL | C(C)(C)O | C3H8O
catalyst | Raney nickel | ca. 1 tsp | [Ni] | Ni
solvent | formic acid | 65 mL | C(=O)O | CH2O2
product | 3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediol | ClC1=CC2=C(N(C=N2)C2C(C(CC2)O)O)C=C1Cl | C12H12Cl2N2O2
